US07361765B2
reacting said methyl (1S,4S)-4-(2,5dimethyl-1H-pyrrol-1-yl)-1-isopropylcyclopent-2-ene-1-carboxylate with NaOH and MeOH to form (1S,4S)-4-(2,5-dimethyl-1H-pyrrol-1-yl)-1-isopropylcyclopent-2-ene-1-carboxylic acid.

reactant | methyl (1S,4S)-4-(2,5dimethyl-1H-pyrrol-1-yl)-1-isopropylcyclopent-2-ene-1-carboxylate | CC=1N(C(=CC1)C)[C@@H]1C=C[C@@](C1)(C(=O)OC)C(C)C | C16H23NO2
reactant | NaOH | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | (1S,4S)-4-(2,5-dimethyl-1H-pyrrol-1-yl)-1-isopropylcyclopent-2-ene-1-carboxylic acid | CC=1N(C(=CC1)C)[C@@H]1C=C[C@@](C1)(C(=O)O)C(C)C | C15H21NO2
